US04843061
Preparation of methyl 3-isopropyl-5-bicyclo[2.2.1]heptene-2-carboxylate (2a, R=methyl)
In the same manner as that described in Example 5, starting from 68 g of methyl 4-methyl-2-pentenoate and 40 g of cyclopentadiene dimer, 57 g were obtained of the desired compound as a mixture consisting of 25% endo- and 75% exo-isomer; b.p.: 81°-85° C./0.7 kPa. The mixture has a woody-spicy and flowery odour with green and minty notes.

reactant | methyl 4-methyl-2-pentenoate | 68 g | CC(C=CC(=O)OC)C | C7H12O2
reactant | cyclopentadiene dimer | 40 g | C1C=CC2C1C3CC2C=C3 | C10H12
product | methyl 3-isopropyl-5-bicyclo[2.2.1]heptene-2-carboxylate | C(C)(C)C1C(C2C=CC1C2)C(=O)OC | C12H18O2
